US04978669
A suspension of 4-methyltryptophan (1.14 g, 5.2 mmol, Sigma) in diphenylmethane (45 mL) was heated at reflux until complete solution was obtained. The solution was then mixed with 45 mL water and 45 mL ethyl acetate, and the pH brought to 1 or lower with concentrated HCl. The mixture was vortexed vigorously for 30 seconds, and centrifuged to provide three layers. The middle (aqueous) layer was washed with ethyl acetate, and adjusted to pH 10 or higher with 10 N NaOH. The resulting white precipitate was extracted into ethyl acetate, and the extract evaporated to dryness under vacuum, to yield crude 4-methyltryptamine base. The crude base was dissolved and acidified in 50 mL EtOH containing 6 mmol 6 N HCl, and the resulting 4-methyltryptamine hydrochloride was crystallized from solution.

reactant | 4-methyltryptophan | 5.2 mmol, 1.14 g | CC=1C=CC=C2NC=C(C[C@H](N)C(=O)O)C12 | C12H14N2O2
reactant | water | 45 mL | O | H2O
reactant | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | Cl | ClH
solvent | diphenylmethane | 45 mL | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
product | 4-methyltryptamine | CC=1C=CC=C2NC=C(CCN)C12 | C11H14N2
